US08076345B2
C) 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propanal
A solution of 5-(1-azido-2-(1,3-dioxolan-2-yl)ethyl)-2-(trifluoromethyl)pyridine (7.44 g, 25.8 mmol) in tetrahydrofuran (60 mL) was treated with 20% aq. HCl (60 mL) at 0° C. The mixture was stirred at room temperature for 1.5 hours. After completion of the reaction, ethyl ether was added and the organic layer was separated, dried over MgSO4, and concentrated to yield a crude oil without further purification.

reactant | 5-(1-azido-2-(1,3-dioxolan-2-yl)ethyl)-2-(trifluoromethyl)pyridine | 25.8 mmol, 7.44 g | N(=[N+]=[N-])C(CC1OCCO1)C=1C=CC(=NC1)C(F)(F)F | C11H11F3N4O2
reactant | HCl | 60 mL | Cl | ClH
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 3-azido-3-(6-(trifluoromethyl)pyridin-3-yl)propanal | N(=[N+]=[N-])C(CC=O)C=1C=NC(=CC1)C(F)(F)F | C9H7F3N4O
